US07662972B2
Step 3: Production of 2-amino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2,2,2-trifluoroethyl)benzoic acid amide
In a solution of 0.60 g of crude 2-amino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid in 6 ml of chloroform, 0.20 g of 2,2,2-trifluoroethylamine, 0.02 g of 4-(N,N-dimethylamino)pyridine and 0.33 g of 1-[3-(diethylamino)propyl]-3-ethylcarbodiimide hydrochloride were added, and stirred at room temperature for 20 hours. After the completion of the reaction, the reaction mixture was subjected to purification with medium-pressure preparative liquid chromatography (Yamazen Corporation, medium pressure preparative system; YFLC-Wprep) that was eluted with ethyl acetate-hexane (1:4), and 0.14 g of the aimed product was obtained as pale yellow crystal.

reactant | 2-amino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]benzoic acid | 0.60 g | NC1=C(C(=O)O)C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H11Cl2F3N2O3
reactant | 2,2,2-trifluoroethylamine | 0.20 g | FC(CN)(F)F | C2H4F3N
reactant | 1-[3-(diethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.33 g | Cl.C(C)N(CCCN=C=NCC)CC
solvent | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | 4-(N,N-dimethylamino)pyridine | 0.02 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 2-amino-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazol-3-yl]-N-(2,2,2-trifluoroethyl)benzoic acid amide | 0.14 g | NC1=C(C(=O)NCC(F)(F)F)C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C19H13Cl2F6N3O2
